US07034034B2
To a solution of 2-Amino-1-(3-trifluoromethyl-phenyl)-ethanone hydrochloride (3.4 g, 0.0144 mol (prepared according to the procedure of Leclerc and Bizec (1980) J. Med. Chem. 23:783–744) and 4-(Benzyloxycarbonylamino-methyl)-cyclohexanecarboxylic acid (4.2 g, 0.0144 mol; for a preparation of this reagent see e.g., Svahn et. al. (1986) J. Med. Chem. 29:448–453) in DMF, Benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (BOP reagent, 6.4 g, 0.0144 mol) was added, followed by triethylamine (4.0 mL, 0.0289 mol). The reaction was stirred overnight and then poured into water to produce a thick precipitate. The solid was collected on a sintered glass funnel and washed consecutively with H2O, 3N HCl (2×), H2O, NaHCO3 solution (2×) and H2O. The filter cake was air dried, added to a 500 mL round bottom flask with toluene and concentrated under reduced pressure. Additional toluene (200 mL) was added and the mixture was concentrated again under reduced pressure to yield {4-[2-Oxo-2-(3-trifluoromethyl-phenyl)-ethylcarbamoyl]-cyclohexylmethyl}-carbamic acid benzyl ester as a solid. 1H NMR (DMSO-d6): δ0.8–0.93 (m, 2H), 1.2–1.37 (m, 3H), 1.71 (br s, 4H), 2.14 (t, 1H), 2.84 (br s, 2H), 4.57 (br s, 2H), 4.99 (s, 2H), 7.2–7.38 (m, 5H), 7.77(t, 1H), 8.01 (d, J=8.0 Hz, 1H), 8.14–8.26 (m, 3H). MS 477 (M+H)+

reactant | 2-Amino-1-(3-trifluoromethyl-phenyl)-ethanone hydrochloride | Cl.NCC(=O)C1=CC(=CC=C1)C(F)(F)F
reactant | 4-(Benzyloxycarbonylamino-methyl)-cyclohexanecarboxylic acid | C(C1=CC=CC=C1)OC(=O)NCC1CCC(CC1)C(=O)O | C16H21NO4
reactant | Benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.0144 mol, 6.4 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 0.0289 mol, 4.0 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | {4-[2-Oxo-2-(3-trifluoromethyl-phenyl)-ethylcarbamoyl]-cyclohexylmethyl}-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NCC1CCC(CC1)C(NCC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)=O | C25H27F3N2O4
